US06001849
3c. 2-(2-(R)-pyrrolidinyl)furo[3,2-b]pyridine dihydrochloride
A 614 mg (2.13 mmol) sample of 2-(1-BOC-2-(R)-pyrrolidinyl)furo[3,2-b]pyridine, from step 3b above, was dissolved in 3 mL of CH2Cl2, and the solution was cooled to 0° C. To this solution was added 3 mL of TFA, and the reaction mixture was stirred at 0° C. for 2 hours. The reaction was quenched with saturated aqueous K2CO3 solution, and the mixture was extracted with CH2Cl2. The organic extract was dried over MgSO4, and the solvent was removed. The residue was purified by chromatography on silica gel and treated with HCl in Et2O as described in Example 1e above to obtain the title compound: 1H NMR (D2O, 300 MHz) δ 2.17-2.69 (m, 4H), 3.52-3.59 (m, 2H), 5.14 (t, 1H, J=5.5 Hz), 7.42 (t, 1H, J=1 Hz), 7.80 (dd, 1H, J=5.6, 8.5 Hz), 8.5 (dt, 1H, J=1, 8.5 Hz), 8.70 (dd, 1H, J=1, 5.5 Hz); MS m/z: 189 (M+H)+, 206 (M+NH4)+ ; Anal. Calcd for C11H12N2O.2.0 HCl.0.5 H2O: C, 48.90; H, 5.60; N, 10.90. Found: C, 48.75; H, 5.74; N, 10.11.

reactant | 2-(1-BOC-2-(R)-pyrrolidinyl)furo[3,2-b]pyridine | C(=O)(OC(C)(C)C)N1[C@H](CCC1)C1=CC2=NC=CC=C2O1 | C16H20N2O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(R)-pyrrolidinyl)furo[3,2-b]pyridine dihydrochloride | Cl.Cl.N1[C@H](CCC1)C1=CC2=NC=CC=C2O1 | InChI=1S/C11H12N2O.2ClH/c1-3-8(12-5-1)11-7-9-10(14-11)4-2-6-13-9;;/h2,4,6-8,12H,1,3,5H2;2*1H/t8-;;/m1../s1
